US07384934B2
(S)-10-[3-(2-Methoxy-ethyl)-piperazin-1-yl]-2-isopropyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Combine 2-isopropyl-4H-3-thia-4,9-diaza-benzo[f]azulene-10-ylamine hydrochloride (0.31 g, 1.04 mmol) and (S)-2-(2-methoxy-ethyl)-piperazine (0.30 g, 2.08 mmol) with anhydrous pyridine (4 mL), heat to 110° C. and stir overnight. Cool to ambient temperature to give crude material. Purification by cation exchange chromatography, eluting with solutions of 2M ammonia in methanol, in dichloromethane, (2%, 5%, 10%), and 2M ammonia in methanol, followed by flash chromatography, eluting with a gradient of solutions of 2M ammonia in methanol, in dichloromethane (2-4%), to give the title compound: mass spectrum (APCI, m/e): 385 (M+1); NMR (1H, 300 MHz, DMSO-d6),δ (ppm): 7.60 (s, 1H), 6.86-6.73 (m, 3H), 6.67 (m, 1H), 6.30 (s, 1H), 3.78 (m, 2H), 3.38-3.33 (m, 2H), 3.19 (s, 3H), 3.01-2.60 (m, 6H), 2.39 (m, 1H), 1.51 (m, 2H), 1.17 (d, 6H, J=7.5 Hz).

reactant | 2-isopropyl-4H-3-thia-4,9-diaza-benzo[f]azulene-10-ylamine hydrochloride | 1.04 mmol, 0.31 g | Cl.C(C)(C)C1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N
reactant | (S)-2-(2-methoxy-ethyl)-piperazine | 2.08 mmol, 0.30 g | COCC[C@@H]1NCCNC1 | C7H16N2O
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | (S)-10-[3-(2-Methoxy-ethyl)-piperazin-1-yl]-2-isopropyl-4H-3-thia-4,9-diaza-benzo[f]azulene | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C(C)C)C=CC=C2 | C21H28N4OS
